US06645968B2
N-cyano-N′-(2-fluorophenyl)thiourea
Cyanamide and 2-fluorophenyl isothiocyanate were processed as described in Example 44A to provide the desired product which was used without further purification.

reactant | Cyanamide | N#CN | CH2N2
reactant | 2-fluorophenyl isothiocyanate | FC1=C(C=CC=C1)N=C=S | C7H4FNS
product | N-cyano-N′-(2-fluorophenyl)thiourea | C(#N)NC(=S)NC1=C(C=CC=C1)F | C8H6FN3S
